US04588718
(a) 6-(Carboxymethylthio)-1-hexanol
4.5 ml (0.04M) of 6-chloro-1-hexanol is added to a solution of 2.8 ml (0.04M) of mercaptoacetic acid in 120 ml of 1N NaOH. The solution is warmed to about 50° C. for 16 hours, then acidified and extracted repeatedly with ethyl acetate. The combined extracts are concentrated to dryness and the residue purified by recrystallization.

reactant | 6-chloro-1-hexanol | 0.04M, 4.5 ml | ClCCCCCCO | C6H13ClO
reactant | mercaptoacetic acid | 0.04M, 2.8 ml | SCC(=O)O | C2H4O2S
solvent | NaOH | 1N, 120 ml | [OH-].[Na+]
product | 6-(Carboxymethylthio)-1-hexanol | C(=O)(O)CSCCCCCCO | C8H16O3S
